US08022248B2
i) 3-(4-chloro-2-nitrophenyl)-(2E)-2-propenoic acid ethyl ester
1-bromo-4-chloro-2-nitrobenzene (5 g), triethylamine (4.42 ml), ethyl acrylate (22.9 ml), palladium (II) acetate (0.048 g) and triphenylphosphine (0.111 g) in DMF (30 ml) was refluxed at 87° C. for 10 h. Toluene was added and the mixture washed with 2M hydrochloric acid and water. The organics were dried and concentrated under reduced pressure to a brown oil which was triturated with isohexane to give a light brown solid. Yield 4.95 g.

reactant | 1-bromo-4-chloro-2-nitrobenzene | 5 g | BrC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C6H3BrClNO2
reactant | triethylamine | 4.42 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl acrylate | 22.9 ml | C(C=C)(=O)OCC | C5H8O2
reactant | triphenylphosphine | 0.111 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
catalyst | palladium (II) acetate | 0.048 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
product | 3-(4-chloro-2-nitrophenyl)-(2E)-2-propenoic acid ethyl ester | C(C)OC(\C=C\C1=C(C=C(C=C1)Cl)[N+](=O)[O-])=O | C11H10ClNO4
